Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Erythromycin Base / Latex / morphine / Percocet / 
adhesive tape / hydrocodone / tramadol
 
Attending: ___
 
___ Complaint:
Right knee pain
 
Major Surgical or Invasive Procedure:
Right total knee arthroplasty ___ ___

 
___ of Present Illness:
___ year old female with history of fibromyalgia, adrenal 
insufficiency, postural hypotension who has failed nonoperative 
treatment of right knee OA, admitted for right total knee 
arthroplasty.
 
Past Medical History:
#Gastroparesis: unclear etiology
- Followed by GI (___)
- Gastric Emptying Study (___): at 4 hours, 67% of the 
ingested activity remains in the stomach 
#Central adrenal insufficiency: isolated ACTH deficiency, 
unclear etiology
- ___ when random cortisol found to be 0.5; work-up showed 
inadequate response to ___ stim (7.7) with low ACTH (7; nl 
___ 
- on glucocorticoid replacement since ___
- Pituitary MRI (___): ?microadenoma
- Remainder of pituitary axes intact (appropriately high FSH, nl 
TSH as of ___
- Follows w/ Endocrine (Dr. ___
#Presumed pancreatic insufficiency: Unclear etiology. No hx of 
chronic pancreatitis. 
- borderline low fecal fat, pancreatic elastase (___)
- on pancreatic enzyme replacement since ___
#?Autonomic insufficiency:
- Severe orthostasis which persists despite volume repletion and 
repletion of adrenal hormones suggests this, as does her hx of 
autonomic sx including bowel/bladder incontinence 
#Hx Anorexia Nervosa w/ Binging Behaviors:
- Remote (1990s) hospitalization for anorexia 
#Hx depression w/ prior suicide attempt:
- Significant trauma hx; prior SA in setting of partner abuse 
- Follows w/ psych for med/management (currently only on 
lorazepam) and therapy (Dr. ___
#Significant trauma hx: multiple forms of interpersonal violence 
as a child and an adult 
#Migraine headache
#Chronic abdominal pain 
 
Social History:
___
Family History:
Patient does not know family history
Has a brother and a sister with whom she has no contact
 
Physical Exam:
Well appearing in no acute distress  
 Afebrile with stable vital signs (HR ___ baseline)  
 Pain well-controlled  
 Respiratory: Unlabored
 Cardiovascular: HR ___ at baseline
 Gastrointestinal: ND  
 Genitourinary: Voiding independently  
 Neurologic: Intact with no focal deficits  
 Psychiatric: Pleasant, A&O x3  
 Musculoskeletal Lower Extremity:  
 Incision healing well with staples  
 Thigh full but soft  
 No calf tenderness  
 ___ strength  
 SILT, NVI distally  
 Toes warm  
 
Pertinent Results:
___ 07:10AM BLOOD WBC-8.9 RBC-3.21* Hgb-9.8* Hct-29.8* 
MCV-93 MCH-30.5 MCHC-32.9 RDW-13.6 RDWSD-46.0 Plt ___
___ 12:00AM BLOOD WBC-8.7 RBC-3.14*# Hgb-9.5*# Hct-28.9*# 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.6 RDWSD-45.3 Plt ___
___ 06:36AM BLOOD WBC-9.6 RBC-2.41* Hgb-7.3* Hct-22.7* 
MCV-94 MCH-30.3 MCHC-32.2 RDW-12.8 RDWSD-44.1 Plt ___
___ 06:14AM BLOOD WBC-10.8*# RBC-2.83*# Hgb-8.5*# 
Hct-26.6*# MCV-94 MCH-30.0 MCHC-32.0 RDW-12.4 RDWSD-42.7 Plt 
___
___ 12:03PM BLOOD WBC-6.5 RBC-3.91 Hgb-11.7 Hct-37.5 MCV-96 
MCH-29.9 MCHC-31.2* RDW-12.7 RDWSD-44.0 Plt ___
___ 07:10AM BLOOD Glucose-87 UreaN-15 Creat-0.6 Na-139 
K-3.5 Cl-106 HCO3-24 AnGap-13
___ 06:36AM BLOOD Glucose-99 UreaN-14 Creat-0.6 Na-137 
K-3.1* Cl-104 HCO3-26 AnGap-10
___ 06:14AM BLOOD Glucose-132* UreaN-14 Creat-0.6 Na-140 
K-3.6 Cl-106 HCO3-26 AnGap-12
___ 07:10AM BLOOD Calcium-9.0 Phos-2.5* Mg-2.0
___ 06:36AM BLOOD Calcium-9.3 Phos-2.7 Mg-2.0
___ 06:14AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.0
___ 06:00AM BLOOD WBC-8.3 RBC-3.56* Hgb-10.7* Hct-32.8* 
MCV-92 MCH-30.1 MCHC-32.6 RDW-13.0 RDWSD-44.0 Plt ___
___ 06:00AM BLOOD Glucose-86 UreaN-13 Creat-0.6 Na-138 
K-3.7 Cl-105 HCO3-23 AnGap-14
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
On POD#1, the patient had urines sent for an elevated white 
count.  Urines were negative.  She was given a bolus of 500 mL 
of fluid for an elevated heart rate.  Her heart rate remained 
elevated on POD#2.  Her hematocrit was 22.7 and she was given 2 
units of blood. Her post transfusion hematocrit was 28.9. In the 
morning of POD# 3, her hematocrit was 29.8. 

On POD#3, patient's discharge was postponed due to intermittent 
tachycardia. Per medical records in ___, patient has occasional 
HR in the 100's but primarily in the 60-80s. The patient denied 
any chest pain or difficulty breathing. An EKG was obtained 
which showed HR 102 and sinus tachycardia. The patient's case 
with discussed with medicine who recommended placing the patient 
on telemetry monitoring to evaluate for paroxysmal atrial 
fibrillation. Her oxygen saturation was 95-97% on room air. She 
was afebrile. 

On POD#4, medicine was formally consulted who recommended a CTA 
to rule out a PE for persistent tachycardia. The CTA was 
negative for PE.  HR improved with better pain control and 
hydration. 

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received lovenox for DVT 
prophylaxis starting on the morning of POD#1.  The foley was 
removed and the patient was voiding independently thereafter. 
The overlying surgical dressing was changed on POD#2 and the 
Silverlon dressing was found to be clean and intact without 
erythema or abnormal drainage. The patient was seen daily by 
physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact and the wound was benign. 

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. 

Ms. ___ is discharged to rehab in stable condition.
 
Medications on Admission:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, SOB 
2. Fluticasone Propionate NASAL 2 SPRY NU QHS 
3. Gabapentin 800 mg PO QAM 
4. Gabapentin 800 mg PO LUNCH 
5. Gabapentin 400 mg PO QPM 
6. Gabapentin 800 mg PO QHS 
7. Hydrocortisone 15 mg PO QAM 
8. Hydrocortisone 5 mg PO LUNCH 
9. Pancrelipase 5000 3 CAP PO TID W/MEALS 
10. Lorazepam 1 mg PO QAM 
11. Lorazepam 1 mg PO LUNCH 
12. Lorazepam 2 mg PO QHS 
13. Midodrine 5 mg PO BID 
14. Omeprazole 40 mg PO BID 
15. Ondansetron 8 mg PO Q8H:PRN nausea 
16. biotin 5 mg oral DAILY 
17. Fexofenadine 180 mg PO DAILY 
18. Psyllium Powder 1 PKT PO TID:PRN constipation 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, SOB 
2. biotin 5 mg oral DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU QHS 
4. Gabapentin 800 mg PO QAM 
5. Gabapentin 800 mg PO LUNCH 
6. Gabapentin 400 mg PO QPM 
7. Gabapentin 800 mg PO QHS 
8. Hydrocortisone 15 mg PO QAM 
9. Hydrocortisone 5 mg PO LUNCH 
10. Lorazepam 1 mg PO QAM 
11. Lorazepam 1 mg PO LUNCH 
12. Lorazepam 2 mg PO QHS 
13. Midodrine 5 mg PO BID 
14. Omeprazole 40 mg PO BID 
15. Pancrelipase 5000 3 CAP PO TID W/MEALS 
16. Psyllium Powder 1 PKT PO TID:PRN constipation 
17. Docusate Sodium 100 mg PO BID 
18. Enoxaparin Sodium 40 mg SC Q24H Duration: 28 Days 
Start: ___, First Dose: First Routine Administration Time 
19. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Every 
___ hours as needed Disp #*30 Tablet Refills:*0
20. Senna 8.6 mg PO BID 
21. Fexofenadine 180 mg PO DAILY 
22. Ondansetron 8 mg PO Q8H:PRN nausea 
23. Acetaminophen 1000 mg PO Q8H 
24. Lidocaine 5% Patch 1 PTCH TD QAM 
25. Diazepam ___ mg PO Q6H:PRN muscle spasms 
Do not drive or drink alcohol while taking this medication. 
RX *diazepam 5 mg 1 tab by mouth every six (6) hours Disp #*44 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right knee osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your ___.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc).
 
8. ANTICOAGULATION: Please continue your Lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  If 
you were taking aspirin prior to your surgery, it is OK to 
continue at your previous dose while taking this medication.  
 
9. WOUND CARE: Please keep apply dry sterile dressing daily to 
your knee wound if your wound is still draining. If your wound 
is dry, you may leave it open to air without any dressing.  It 
is okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup.  Check wound regularly for signs of infection such 
as redness or thick yellow drainage. Staples will be removed by 
at your follow-up visit in 3 weeks.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, and wound checks.
 
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize with assistive devices (___) if 
needed.  Range of motion at the knee as tolerated. No strenuous 
exercise or heavy lifting until follow up appointment.

12. You were evaluated by the Medical Team while ___ for an 
increased heart rate.  Please schedule a follow-up in 1 week 
with your Primary Care Physician for continued evaluation.
Physical Therapy:
Weight bearing as tolerated on the operative extremity. Mobilize 
with assistive devices (___) if needed.  Range of 
motion at the knee as tolerated. No strenuous exercise or heavy 
lifting until follow up appointment.
Treatments Frequency:
daily dressing changes as needed for drainage
wound checks daily
ice
staple removal and replace with steri-strips at follow up 
appointment in 2 weeks 

 
Followup Instructions:
___